US05874438
A mixture of 2,6-bis-(hydroxymethyl)-pyridine (556 mg, 4.0 mmol) and triphenylphosphine (1.05 g, 8.0 mmol) was dissolved in THF (20 ml) and cooled to 0° C. Phthalimide (1.2 g, 8.0 mmol) was added and diethyl azodicarboxylate (1.2 ml, 8.0 mmol) was then added dropwise. The cooling bath was removed and the mixture was stirred at RT overnight. It was concentrated on a rotary evaporator and the residue was purified by chromatography on silica gel (eluent: methylene chloride/ethanol, 100/2) to give 2,6-bis-(phthalimidomethyl)-pyridine in the form of a solid.

reactant | 2,6-bis-(hydroxymethyl)-pyridine | 4.0 mmol, 556 mg | OCC1=NC(=CC=C1)CO | C7H9NO2
reactant | triphenylphosphine | 8.0 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Phthalimide | 8.0 mmol, 1.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 8.0 mmol, 1.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | 2,6-bis-(phthalimidomethyl)-pyridine | C1(C=2C(C(N1CC1=NC(=CC=C1)CN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C23H15N3O4
